US09056881B2
Ethyl bis(nonafluorobutyl)phosphinate, (C4F9)2P(O)OC2H5, (3.834 g; 7.2 mmol) is slowly added to cooled (0° C.) N-methylimidazole (0.458 g; 5.6 mmol) in a 25 ml glass flask. An exothermic reaction and two orange phases are observed. After a few minutes, a green-coloured, more highly viscous solution forms. This is stirred at 0° C. for 2.5 h and at room temperature for 41 h. 1-Ethyl-3-methylimidazolium bis(nonafluorobutyl)phosphinate, [EMIM][(C4F9)2P(O)O], (3.233 g; 5.3 mmol) can be isolated as a highly viscous, green liquid in a yield of 95% and a purity of 95% by purification in vacuo (10−3 mbar) at room temperature to 50° C.

reactant | Ethyl bis(nonafluorobutyl)phosphinate | FC(C(C(F)(F)P(OCC)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C10H5F18O2P
reactant | (C4F9)2P(O)OC2H5 | P(=O)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)OCC | C10H5F18O2P
reactant | N-methylimidazole | 5.6 mmol, 0.458 g | CN1C=NC=C1 | C4H6N2
product | 1-Ethyl-3-methylimidazolium bis(nonafluorobutyl)phosphinate | yield of 95% | FC(C(C(F)(F)P([O-])(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F.C(C)[N+]1=CN(C=C1)C | InChI=1S/C8HF18O2P.C6H11N2/c9-1(10,5(17,18)19)3(13,14)7(23,24)29(27,28)8(25,26)4(15,16)2(11,12)6(20,21)22;1-3-8-5-4-7(2)6-8/h(H,27,28);4-6H,3H2,1-2H3/q;+1/p-1
